US07129234B2
4-Methoxy-3-(methylsulfanyl)phenol
5-Hydroxy-1,3-benzoxathiol-2-one (2 g, 11.9 mmol) [prepared according to J. Org. Chem. 1990, 55, 27361] was dissolved in acetone (13 mL) and treated with potassium carbonate (3.29 g, 23.8 mmol) followed by allyl bromide (1.13 mL, 13.1 mmol). The mixture was then stirred under nitrogen atmosphere for 24 h. The reaction mixture was evaporated to dryness and the residue was partitioned between water and diethyl ether (50 mL each). The organic fraction was separated and the aqueous layer was re-extracted with diethyl ether (50 mL). The combined organic fractions were dried (MgSO4) and evaporated to a brown oil. Purification by flash chromatography [SiO2; pentane/EtOAc (95:5→90:10)] afforded the desired compound as a colourless oil (1.9 g, 77%); δH (CDCl3, 400 MHz) 4.50 (2H, d), 5.28 (1H, d), 5.38 (1H, d), 6.00 (1H, ddt), 6.83 (1H, dd), 6.91 (1H, d), 7.15 (1H, d).

reactant | 5-Hydroxy-1,3-benzoxathiol-2-one | 11.9 mmol, 2 g | OC=1C=CC2=C(SC(O2)=O)C1 | C7H4O3S
reactant | potassium carbonate | 23.8 mmol, 3.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 13.1 mmol, 1.13 mL | C(C=C)Br | C3H5Br
solvent | acetone | 13 mL | CC(=O)C | C3H6O
product | 4-Methoxy-3-(methylsulfanyl)phenol | 1.9 g, 77% | COC1=C(C=C(C=C1)O)SC | C8H10O2S
